US07855201B2
Step 2: 3,3,4,4-tetrafluoro-2,3,4,5-tetrahydro-1,6-benzodioxocine-8-carbaldehyde
A mixture of 2 g of 3,5-dihydroxybenzaldehyde, 10 g of 2,2,3,3-tetrafluorobutane-1,4-diyl bis(trifluoromethanesulfonate) and 12 g of cesium carbonate in 100 mL of anhydrous acetonitrile was heated under nitrogen to 50° C. overnight. The mixture was allowed to cool, then filtered and concentrated under reduced pressure. The residue was partitioned between 250 mL of ethyl acetate and 100 mL of saturated sodium carbonate then dried over magnesium sulfate and concentrated under reduced pressure. Purification by flash chromatography (0-35% ethyl acetate in hexanes) gave the product as crystalline solid. MS (m+1)=265.1; 1H NMR (400 MHz, CDCl3) 9.85 (s, 1H), 7.6 (m, 2H), 7.2 (d, 1H), 4.64 (t, 2H), 4.45 (t, 2H).

reactant | 3,5-dihydroxybenzaldehyde | 2 g | OC=1C=C(C=O)C=C(C1)O | C7H6O3
reactant | 2,2,3,3-tetrafluorobutane-1,4-diyl bis(trifluoromethanesulfonate) | 10 g | FC(S(=O)(=O)OCC(C(COS(=O)(=O)C(F)(F)F)(F)F)(F)F)(F)F | C6H4F10O6S2
reactant | cesium carbonate | 12 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3,3,4,4-tetrafluoro-2,3,4,5-tetrahydro-1,6-benzodioxocine-8-carbaldehyde | FC1(C(COC2=C(OC1)C=CC(=C2)C=O)(F)F)F | C11H8F4O3
